US07560551B2
A resealable reaction tube was charged with cesium carbonate (0.873 g, 0.268 mmol), 3-bromo4-chloropyridine hydrochloride (0.205 g, 0.894 mmol) and 4-(4-phenylphthalazin-1-ylamino)phenol (0.280 g, 0.894 mmol) and purged with nitrogen for several minutes. 1.8 mL of DMSO was added, the tube was sealed, and the reaction mixture was heated to 130° C. for 3 h. Upon cooling the mixture was diluted with EtOAc and washed with water. The aqueous portion was extracted with EtOAc, and the combined organic portions were dried with MgSO4 and concentrated. N-(4-(3-bromopyridin4-yloxy)phenyl)-4-phenylphthalazin-1-amine was isolated as an orange solid. MS m/z=470 [M+H]+. Calc'd for C25H17BrN4O: 469.33.

reactant | cesium carbonate | 0.268 mmol, 0.873 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo4-chloropyridine hydrochloride | 0.894 mmol, 0.205 g | Cl.BrC=1C=NC=CC1Cl
reactant | 4-(4-phenylphthalazin-1-ylamino)phenol | 0.894 mmol, 0.280 g | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C20H15N3O
product | N-(4-(3-bromopyridin4-yloxy)phenyl)-4-phenylphthalazin-1-amine | BrC=1C=NC=CC1OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C25H17BrN4O
